* Massive RLC Network (Passive Only)

************* SOURCES *************
V1 in 0 DC 0 AC 1

************* STAGE 1 *************
R1 in n1 1k
L1 n1 n2 10uH
C1 n2 0 100pF

R2 n2 n3 1.2k
L2 n3 n4 12uH
C2 n4 0 120pF

R3 n4 n5 1.5k
L3 n5 n6 15uH
C3 n6 0 150pF

************* STAGE 2 *************
R4 n6 n7 1.1k
L4 n7 n8 11uH
C4 n8 0 110pF

R5 n8 n9 1.3k
L5 n9 n10 13uH
C5 n10 0 130pF

R6 n10 n11 1.6k
L6 n11 n12 16uH
C6 n12 0 160pF

************* STAGE 3 *************
R7 n12 n13 1.2k
L7 n13 n14 12uH
C7 n14 0 120pF

R8 n14 n15 1.4k
L8 n15 n16 14uH
C8 n16 0 140pF

R9 n16 n17 1.7k
L9 n17 n18 17uH
C9 n18 0 170pF

************* CROSS COUPLING *************
R10 n3 n9 2k
L10 n5 n11 20uH
C10 n7 0 50pF

R11 n9 n15 2.2k
L11 n11 n17 22uH
C11 n13 0 60pF

************* MESH LINKS *************
R12 n2 n8 3k
R13 n4 n10 3.2k
R14 n6 n12 3.4k
R15 n8 n14 3.6k
R16 n10 n16 3.8k
R17 n12 n18 4k

************* PARALLEL BRANCHES *************
R18 n1 n6 5k
L12 n6 n1 25uH
C12 n6 0 200pF

R19 n7 n12 5.2k
L13 n12 n7 27uH
C13 n12 0 220pF

R20 n13 n18 5.5k
L14 n18 n13 30uH
C14 n18 0 250pF

************* EXTENDED NETWORK *************
R21 n18 n19 1k
L15 n19 n20 10uH
C15 n20 0 100pF

R22 n20 n21 1.1k
L16 n21 n22 11uH
C16 n22 0 110pF

R23 n22 n23 1.2k
L17 n23 n24 12uH
C17 n24 0 120pF

R24 n24 n25 1.3k
L18 n25 n26 13uH
C18 n26 0 130pF

R25 n26 n27 1.4k
L19 n27 n28 14uH
C19 n28 0 140pF

************* TERMINATION *************
RLOAD n28 0 10k

************* ANALYSIS *************
.op
.ac dec 50 1 10Meg
.tran 0.1u 5m

************* CONTROL *************
.control
run
plot v(n28)
.endc

.end